US03946045
Preparation of N-(2-Methyl-1,3-dioxolan-5-ylmethyl)-2-t-butyl-α-bromoacetanilide
N-(2-Methyl-1,3-dioxolan-5-ylmethyl)-2-t-butylaniline (0.1 mole), sodium carbonate (0.1 mole), water (10 ml) and benzene (100 ml) are charged into a glass reaction vessel equipped with a mechanical stirrer and thermometer. The reaction mixture is cooled to a temperature of about 0°C and bromoacetyl chloride (0.11 mole) is incrementally added with stirring. After the addition is completed, stirring is continued for a period of about one hour. The mixture is then washed with water, dried over anhydrous magnesium sulfate and filtered. The filtrate is stripped of solvent and unreacted starting materials to yield the desired product N-(2-methyl-1,3-dioxolan-5-ylmethyl)-2-t-butyl-α-bromoacetanilide as the residue.

reactant | N-(2-Methyl-1,3-dioxolan-5-ylmethyl)-2-t-butylaniline | 0.1 mole | CC1OC(CO1)CNC1=C(C=CC=C1)C(C)(C)C | C15H23NO2
reactant | sodium carbonate | 0.1 mole | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 10 ml | O | H2O
reactant | bromoacetyl chloride | 0.11 mole | BrCC(=O)Cl | C2H2BrClO
reactant | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | N-(2-methyl-1,3-dioxolan-5-ylmethyl)-2-t-butyl-α-bromoacetanilide | CC1OC(CO1)CN(C1=CC=CC=C1)C(C(Br)C(C)(C)C)=O | C17H24BrNO3
